US04980363
1.2 g of alpha-(2-furyl)-alpha-aminoacetonitrile hydrochloride was dissolved in 10 ml of pyridine, and with stirring at room temperature, 1.1 g of 3-methylisothiazole-4-carboxylic acid chloride was added dropwise. After the dropwise addition, the mixture was stirred for 1 hour, and distilled under reduced pressure to remove pyridine. The residue was dissolved in ethyl acetate, separated, washed with water, and dried over sodium sulfate. The ethyl acetate layer was distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography. Elution with benzene-ethyl acetate gave 1.2 g (yield of the desired N-(alpha-cyanofurfuryl)-3-methylisothiazole-4-carboxylic acid amide.

reactant | alpha-(2-furyl)-alpha-aminoacetonitrile hydrochloride | 1.2 g | Cl.O1C(=CC=C1)C(C#N)N
reactant | 3-methylisothiazole-4-carboxylic acid chloride | 1.1 g | CC1=NSC=C1C(=O)Cl | C5H4ClNOS
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(alpha-cyanofurfuryl)-3-methylisothiazole-4-carboxylic acid amide | C(#N)C(C1=CC=CO1)NC(=O)C=1C(=NSC1)C | C11H9N3O2S
